2143-11-19 07:15:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2143-11-19**] 12:19 AM
 PAN CULTURE - At [**2143-11-19**] 03:00 AM
 FEVER - 102.5
F - [**2143-11-19**] 02:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2143-11-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-19**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.9
C (102
   HR: 96 (96 - 117) bpm
   BP: 115/75(85) {115/60(74) - 150/86(102)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             119 mL
   PO:
             TF:
   IVF:
   119 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    480 mL
   Urine:
   480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -361 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: 7.51/37/94.[**Numeric Identifier 433**]/26/5
   PaO2 / FiO2: 157
   Physical Examination
   GENERAL: Using accessory muscles of breathing. Taking in [**3-31**] word
   sentences.
   HEENT: Normocephalic, atraumatic. MMM. OP clear. Neck Supple, No LAD.
   CARDIAC: Tachycardic. Normal S1, S2. No murmurs, rubs or [**Last Name (un) 2911**].
   LUNGS: + rhonchi diffusely bilaterally.
   ABDOMEN: +BS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. 5/5 strength
   throughout. 2+ reflexes, equal BL.
   Labs / Radiology
   386 K/uL
   9.1 g/dL
   95 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   7 mg/dL
   96 mEq/L
   135 mEq/L
   27.5 %
   14.2 K/uL
        [image002.jpg]
                            [**2143-11-19**]  12:13 AM
                            [**2143-11-19**]  02:57 AM
   WBC
   14.2
   Hct
   27.5
   Plt
   386
   Cr
   0.5
   TCO2
   31
   Glucose
   95
   Other labs: PT / PTT / INR:12.8//1.1, Differential-Neuts:90.3 %,
   Lymph:5.5 %, Mono:3.2 %, Eos:0.9 %, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   Ms. [**Known lastname 9470**] is a 50 year old female with metastatic breast cancer with
   left breast cancer (ER negative, Her2 positive) to the [**Last Name (LF) **], [**First Name3 (LF) 503**],
   liver and lung who was admitted for seizures and PNA but was
   transferred to the ICU this evening for respiratory distress in the
   setting of worsening bilateral opacities on CXR.
   .
   Respiratory distress/hypoxia: CXR with worsening bilateral opacities
   and likely fluid overload.  CTA with no PE but significant for diffuse
   ground glass opacities.  CTA also with consolidation in the right
   middle lobe and right lower lobe which could represent infection or
   metastatic deposits to the lungs.  There is concern for lymphangitic
   spread of her breast cancer. There may also be a component of
   aspiration PNA. She did have aspiration events prior to admission.
   -dose of vancomycin given prior to transfer to floor, continue
   vancomycin
   -change ceftriaxone to cefepime for better pseudomonas coverage
   -send flu swab, place on precautions
   -empiric tx with tamiflu
   -urine legionella pending
   -trend WBC and fever curve
   -got lasix 20 IV x1, monitor urine output
   -appreciate pulm recs, will consider diagnostic thoracentesis
   -need to discuss goals of care to find out utility of biopsy
   -diuresis prn
   .
   # UTI: Treat as above.
   -change ceftriaxone to cefepime
   .
   #. Fever: spiked to 102.5. Likely due to worsening PNA.
   -abx as detailed above
   -f/u urine cx and blood cx
   -obtain sputum cx and flu swab
   .
   # Seizure: EEG pending.  Dr. [**Last Name (STitle) 980**] felt staring spells and tremors more
   likely related to hypotension and hypoxia.
   -Continue seizure ppx w/ keppra
   .
   # Metastatic Breast Cancer: She is getting bevacizumab and Herceptin.
   She has brain metastasis and radiation induced necrosis which likely
   explains her cerebellar dysfunction.
   -management per oncology recs
   .
   # Elevated LFTs: ALT 47 ASt 61 Alk ph 264 T bili 0.3.  Unclear if
   increase in liver enzymes could be due to liver mets.
   -follow daily
   .
   # Mild oral and pharyngeal dysphagia: pt has reduced coordination c/w
   cerebellum mets. She aspirates thin liquids silently
   -diet of nectar thick liquids and soft, moist solids. Avoid mixed
   consistencies that contain liquids and solids.
   -Small bites and sips
   -Pills whole with apple sauce
   -aspiration precautions
   .
   # Anemia: HCT currently 28 and stable. Recent baseline 32-35.
   -check iron studies
   -guiac all stools
   .
   # FEN/GI:
   -NPO until respiratory status improves
   .
   # PROPHY:
   -SC heparin
   -bowel regimen
   .
   # ACCESS: Port
   .
   # CODE: FULL confirmed with patient
   .
   # COMM: patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-11-20 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -was on high flow nebs all AM, but arond 1600 was placed on NRB,
   satting low to mid 90s on it.. lung exam concerning for worsening
   crackles (sounded very velcro-like on inspiration in AM exam), so got
   stat CXR, ABG and gave 20mg IV lasix x1
   -stat CXR looks like worsening volume overload- pulmonary edema
   - PaO2 94 on NRV, otherwise ABGs OK
   -put out well to lasix, ~650 cc
   -gave another 10mg IV lasix around 1230am
   -This AM, the patient states that her breathing has improved.
   Complains of some continues head and neck pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-11-19**] 08:00 PM
   Cefipime - [**2143-11-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-11-20**] 02:17 AM
   Heparin Sodium (Prophylaxis) - [**2143-11-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-20**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.7
C (96.3
   HR: 48 (47 - 91) bpm
   BP: 138/78(92) {91/61(70) - 150/94(103)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    937 mL
                                                                    122 mL
   PO:
             TF:
   IVF:
                                                                    937 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    280 mL
   Urine:
                                                                  1,755 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -818 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 99%
   ABG: 7.43/45/94.[**Numeric Identifier 433**]/28/4
   PaO2 / FiO2: 157
   Physical Examination
   GENERAL: Breathing comfortably on NRB, able to sit up without
   desattingfrom 98-100%
   CARDIAC: Tachycardic. Normal S1, S2. No murmurs, rubs or [**Last Name (un) 2911**].
   LUNGS: diffuse late inspiratory crackles
   ABDOMEN: +BS. Soft, NT, ND. No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis.
   Labs / Radiology
   426 K/uL
   9.5 g/dL
   152 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   17 mg/dL
   98 mEq/L
   136 mEq/L
   29.3 %
   12.6 K/uL
        [image002.jpg]
                            [**2143-11-19**]  12:13 AM
                            [**2143-11-19**]  02:57 AM
                            [**2143-11-19**]  08:54 AM
                            [**2143-11-19**]  08:48 PM
                            [**2143-11-20**]  04:47 AM
   WBC
   14.2
   12.6
   Hct
   27.5
   29.3
   Plt
   386
   426
   Cr
   0.5
   0.5
   TCO2
   31
   31
   31
   Glucose
   95
   152
   Other labs: PT / PTT / INR:13.2/34.9/1.1, ALT / AST:19/35, Alk Phos / T
   Bili:233/0.3, Differential-Neuts:90.3 %, Lymph:5.5 %, Mono:3.2 %,
   Eos:0.9 %, Lactic Acid:1.1 mmol/L, LDH:479 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.7 mg/dL, PO4:4.4 mg/dL
   -ECHO: moderate pulmonary hypertension, dilated right ventricle,
   moderate-severe TR.
   Assessment and Plan
   Ms. [**Known lastname 9470**] is a 50 year old female with metastatic breast cancer with
   left breast cancer (ER negative, Her2 positive) to the [**Last Name (LF) **], [**First Name3 (LF) 503**],
   liver and lung who was admitted for seizures and PNA but was
   transferred to the ICU this evening for respiratory distress in the
   setting of worsening bilateral opacities on CXR.
   .
   # Respiratory distress/hypoxia: CXR with worsening bilateral opacities
   and likely fluid overload.  CTA with no PE but significant for diffuse
   ground glass opacities.  CTA also with consolidation in the right
   middle lobe and right lower lobe which could represent infection or
   metastatic deposits to the lungs.  There is concern for lymphangitic
   spread of her breast cancer. There also could be contribution from
   pulmonary edema [**1-28**] diastolic dysfunction and possible infectious
   process / PNA
   -continue empiric Abx  treatment with vancomycin, cefepime and
   azithromycin
   -influenza swab pending; on contact precautions
   -empiric tx with tamiflu
   -appreciate pulm recs, could consider diagnostic thoracentesis although
   patient is not stable enough for this now
   -need to discuss goals of care to find out utility of biopsy
   -Aggressive diuresis today with goal negative 2L (as BP tolerates)
   -could consider non-invasive positive pressure ventillation if
   clinically worsening
   .
   #. Fever: Pt. is currently afebrile with WBC trending down.
   -abx as detailed above
   -f/u urine cx and blood cx
   -F/u sputum cx and flu swab
   .
   # Seizure: ? seizure .  Neuro following. Continue to f/u Neuro recs.
   -Continue seizure prophylaxis w/ keppra
   -Continue Decadron taper (4mg QID x2 days, 4mg [**Hospital1 **] after that).
   .
   # Metastatic Breast Cancer: She is getting bevacizumab and Herceptin.
   She has brain metastasis and radiation induced necrosis which likely
   explains her cerebellar dysfunction.
   -management per oncology recs
   .
   # Elevated LFTs: Trending down today.  GGT elevated , so c/w  liver.
   -Continue to trend
   .
   # Mild oral and pharyngeal dysphagia: pt has reduced coordination c/w
   cerebellum mets. She aspirates thin liquids silently
   -diet of nectar thick liquids and soft, moist solids. Avoid mixed
   consistencies that contain liquids and solids.   Hold for now.
   - Continue sips only for now given respiratory distress
   -Pills whole with apple sauce
   -aspiration precautions
   .
   # Anemia: HCT currently 28 and stable. Recent baseline 32-35.
   -f/u iron studies
   -guiac all stools
   ICU Care
   Nutrition: NPO until respiratory distress improves (sips OK).
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  with patient and husband
   [**Name (NI) 129**] status: FULL confirmed with patient
   Disposition: ICU

2143-11-20 11:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure--Hypoxemic, Acute
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient weaned off of high flow O2
   Patient reports subjective improvement
   Negative fluild balance maintained overnight
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-11-19**] 08:00 PM
   Cefipime - [**2143-11-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-11-20**] 02:17 AM
   Heparin Sodium (Prophylaxis) - [**2143-11-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2143-11-20**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.2
C (95.4
   HR: 50 (47 - 79) bpm
   BP: 134/73(90) {107/61(73) - 150/94(103)} mmHg
   RR: 8 (6 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    937 mL
                                                                    163 mL
   PO:
             TF:
   IVF:
                                                                    937 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    315 mL
   Urine:
                                                                  1,755 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -818 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.43/45/94.[**Numeric Identifier 433**]/28/4
   PaO2 / FiO2: 99
   Physical Examination
   General Appearance: Overweight / Obese, mildly
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: lessened)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   426 K/uL
   152 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   17 mg/dL
   98 mEq/L
   136 mEq/L
   29.3 %
   12.6 K/uL
        [image002.jpg]
                            [**2143-11-19**]  12:13 AM
                            [**2143-11-19**]  02:57 AM
                            [**2143-11-19**]  08:54 AM
                            [**2143-11-19**]  08:48 PM
                            [**2143-11-20**]  04:47 AM
   WBC
   14.2
   12.6
   Hct
   27.5
   29.3
   Plt
   386
   426
   Cr
   0.5
   0.5
   TCO2
   31
   31
   31
   Glucose
   95
   152
   Other labs: PT / PTT / INR:13.2/34.9/1.1, ALT / AST:19/35, Alk Phos / T
   Bili:233/0.3, Differential-Neuts:90.3 %, Lymph:5.5 %, Mono:3.2 %,
   Eos:0.9 %, Lactic Acid:1.1 mmol/L, LDH:479 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.7 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: ECHO--Mod PAH, Severe TR
   Imaging: CXR-No new today.  From last night--worsening diffuse alveolar
   infiltrates noted with central predominance.  This is concerning for
   hydrostatic pulmonary edema
   Microbiology: Influenza DFA--not interpretable
   Assessment and Plan
   50 yo female with history of metastatic breast cancer now admitted with
   prominent hypoxemic respiratory failure.  This was in the setting of
   concern for acute infectious insult which has yet to be fully defined.
   We do have viral culture pending but sample was not able to be
   evaluated for rapid test due to limited numbers of cells.  This leaves
   the insult of likely lymphangitic carcinomatosis in addition to what
   may well be viral pneumonitis.
   1)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-This is a provocative
   picture where we do see substantial worsening of the pulmonary
   infiltrates and persistence of the hypoxemia across time.  This would
   lead to a conclusion that ongoing diuresis may be of benefit in regards
   to improvement in oxygenation.  The elevation in the LVEDP is hard to
   postulate with only right sided compromise seen on ECHO unless
   ventricular inter-dependence is at play.
   PNEUMONIA-Will repeat viral culture and DFA
   -Vanco/Azithro/Cefepime/Tamiflu
   -Follow culture results across tiem
   PULMONARY EDEMA-
   -Maintain negative fluid balance today
goal is 1-2 liters negative
   today
   -Will use NIV today as tolerated if not able to improve with diuresis
   alone
   BREAST CANCER-
   -There is lymphangitic carcinomatosis present
   -Decadron as trialed
   2)BREAST CANCER-
   -Dex 40mg and taper to 4mg QID x 2 days
   ICU Care
   Nutrition: PO Diet
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2143-11-21 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Changed PO pain regimen to Oxycodone 10mg Q6hrs and Tylenol 650mg
   Q6hrs standing
   -Updated the patient and family on current treatment
   -Given 20mg IV Lasix x2, still only -300cc, so gave another 40cc Lasix
   IV in late PM.
   -Stable on NRB satting 98-100%, desats immediately when she takes NRB
   off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-11-20**] 08:00 PM
   Cefipime - [**2143-11-21**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-11-20**] 08:00 PM
   Furosemide (Lasix) - [**2143-11-21**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-21**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 70 (50 - 81) bpm
   BP: 148/82(100) {107/25(54) - 148/82(100)} mmHg
   RR: 7 (7 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    741 mL
                                                                    127 mL
   PO:
             TF:
   IVF:
                                                                    741 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    325 mL
   Urine:
                                                                  1,095 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -354 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   GENERAL: Breathing comfortably on NRB, able to sit up without
   desattingfrom 98-100%
   CARDIAC: Tachycardic. Normal S1, S2. No murmurs, rubs or [**Last Name (un) 2911**].
   LUNGS: diffuse late inspiratory crackles
   ABDOMEN: +BS. Soft, NT, ND. No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis.
   Labs / Radiology
   557 K/uL
   9.2 g/dL
   165 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.9 mEq/L
   31 mg/dL
   100 mEq/L
   140 mEq/L
   28.4 %
   21.3 K/uL
        [image002.jpg]
                            [**2143-11-19**]  12:13 AM
                            [**2143-11-19**]  02:57 AM
                            [**2143-11-19**]  08:54 AM
                            [**2143-11-19**]  08:48 PM
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
   WBC
   14.2
   12.6
   21.3
   Hct
   27.5
   29.3
   28.4
   Plt
   [**Telephone/Fax (3) 9531**]
   Cr
   0.5
   0.5
   0.6
   TCO2
   31
   31
   31
   Glucose
   95
   152
   165
   Other labs: PT / PTT / INR:13.2/34.9/1.1, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:90.3 %, Lymph:5.5 %, Mono:3.2 %,
   Eos:0.9 %, Lactic Acid:1.1 mmol/L, LDH:479 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9470**] is a 50 year old female with metastatic breast cancer with
   left breast cancer (ER negative, Her2 positive) to the [**Last Name (LF) **], [**First Name3 (LF) 503**],
   liver and lung who was admitted for seizures and PNA but was
   transferred to the ICU this evening for respiratory distress in the
   setting of worsening bilateral opacities on CXR.
   .
   # Respiratory distress/hypoxia: CXR with worsening bilateral opacities
   and likely fluid overload.  CTA with no PE but significant for diffuse
   ground glass opacities.  CTA also with consolidation in the right
   middle lobe and right lower lobe which could represent infection or
   metastatic deposits to the lungs.  There is concern for lymphangitic
   spread of her breast cancer. There also could be contribution from
   pulmonary edema [**1-28**] diastolic dysfunction and possible infectious
   process / PNA
   -continue empiric Abx  treatment with vancomycin, cefepime and
   azithromycin
   -influenza swab pending; on contact precautions
   -empiric tx with tamiflu
   -appreciate pulm recs, could consider diagnostic thoracentesis although
   patient is not stable enough for this now
   -need to discuss goals of care to find out utility of biopsy
   -Aggressive diuresis today with goal negative 2L (as BP tolerates)
   -could consider non-invasive positive pressure ventillation if
   clinically worsening
   .
   #. Fever: Pt. is currently afebrile with WBC trending down.
   -abx as detailed above
   -f/u urine cx and blood cx
   -F/u sputum cx and flu swab
   .
   # Seizure: ? seizure .  Neuro following. Continue to f/u Neuro recs.
   -Continue seizure prophylaxis w/ keppra
   -Continue Decadron taper (4mg QID x2 days, 4mg [**Hospital1 **] after that).
   .
   # Metastatic Breast Cancer: She is getting bevacizumab and Herceptin.
   She has brain metastasis and radiation induced necrosis which likely
   explains her cerebellar dysfunction.
   -management per oncology recs
   .
   # Elevated LFTs: Trending down today.  GGT elevated , so c/w  liver.
   -Continue to trend
   .
   # Mild oral and pharyngeal dysphagia: pt has reduced coordination c/w
   cerebellum mets. She aspirates thin liquids silently
   -diet of nectar thick liquids and soft, moist solids. Avoid mixed
   consistencies that contain liquids and solids.   Hold for now.
   - Continue sips only for now given respiratory distress
   -Pills whole with apple sauce
   -aspiration precautions
   .
   # Anemia: HCT currently 28 and stable. Recent baseline 32-35.
   -f/u iron studies
   -guiac all stools
   ICU Care
   Nutrition: NPO until respiratory distress improves (sips OK).
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  with patient and husband
   [**Name (NI) 129**] status: FULL confirmed with patient
   Disposition: ICU

2143-11-22 07:44:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9291**] PROGRESS NOTE
   Chief Complaint: respiratory distress
   24 Hour Events:
   -change steroid dosage to 4mg [**Hospital1 **]
   -needs family mtg w/ Drs [**Name5 (PTitle) 3650**] (primary onc) & [**Doctor Last Name 980**] (neuro-onc)
   -RT couldn't get induced sputum because she coughed up food when they
   tried
   -Have very low urine output so gave 80mg IV lasix at 4pm, after which
   she started peeing more, then tapered off
   -Was temporarily off nonrebreather but had to be placed back on
   non-rebreather
   Allergies: NKDA
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2143-11-21**] 02:41 PM
   Vancomycin - [**2143-11-21**] 07:15 PM
   Cefipime - [**2143-11-22**] 04:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-11-22**] 04:03 AM
   Furosemide (Lasix) - [**2143-11-22**] 04:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-22**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96.1
   HR: 63 (57 - 80) bpm
   BP: 139/76(92) {120/66(80) - 146/85(98)} mmHg
   RR: 16 (6 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.1 kg (admission): 70 kg
             Total In:
                                                                    960 mL
                                                                    177 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    840 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,090 mL
   Urine:
                                                                  2,300 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,340 mL
                                                                   -913 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 97%
   ABG: ///35/
   Physical Examination
   GENERAL: Breathing comfortably on NRB, able to sit up without
   desattingfrom 98-100%
   CARDIAC: Tachycardic. Normal S1, S2. No murmurs, rubs or [**Last Name (un) 2911**].
   LUNGS: diffuse late inspiratory crackles
   ABDOMEN: +BS. Soft, NT, ND. No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis.
   Labs / Radiology
   588 K/uL
   9.4 g/dL
   129 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.2 mEq/L
   38 mg/dL
   101 mEq/L
   144 mEq/L
   29.7 %
   18.1 K/uL
        [image002.jpg]
                            [**2143-11-19**]  12:13 AM
                            [**2143-11-19**]  02:57 AM
                            [**2143-11-19**]  08:54 AM
                            [**2143-11-19**]  08:48 PM
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
   WBC
   14.2
   12.6
   21.3
   18.1
   Hct
   27.5
   29.3
   28.4
   29.7
   Plt
   [**Telephone/Fax (3) 9544**]88
   Cr
   0.5
   0.5
   0.6
   0.7
   0.8
   TCO2
   31
   31
   31
   Glucose
   95
   152
   165
   142
   129
   Other labs: PT / PTT / INR:13.5/37.2/1.2, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:95.2 %, Lymph:2.5 %, Mono:2.2 %,
   Eos:0.1 %, Lactic Acid:1.1 mmol/L, LDH:479 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9470**] is a 50 year old female with metastatic breast cancer with
   left breast cancer (ER negative, Her2 positive) to the [**Last Name (LF) **], [**First Name3 (LF) 503**],
   liver and lung who was admitted for seizures and PNA but was
   transferred to the ICU this evening for respiratory distress in the
   setting of worsening bilateral opacities on CXR.
   .
   # Respiratory distress/hypoxia: CXR with worsening bilateral opacities
   and likely fluid overload.  CTA with no PE but significant for diffuse
   ground glass opacities.  CTA also with consolidation in the right
   middle lobe and right lower lobe which could represent infection or
   metastatic deposits to the lungs.  There is concern for lymphangitic
   spread of her breast cancer. There also could be contribution from
   pulmonary edema [**1-28**] diastolic dysfunction and possible infectious
   process / PNA
   -continue empiric Abx  treatment with vancomycin, cefepime and
   azithromycin (day 3)
   -d/c droplet precautions and Tamiflu given negative Influenza DFA.
   -No lung biopsy given respiratory distress and patient wishes.
   -Continue aggressive diuresis today, 40mg Lasix bolus now
   -could consider non-invasive positive pressure ventillation if
   clinically worsening
   -Continue Prophylactic PCP treatment
   [**Name9 (PRE) 9537**] sputum induction
   -Continue Decadron taper (4mg QID today, 4mg [**Hospital1 **] starting tomorrow).
   .
   #. Fever: Pt. is currently afebrile.  Leukocytosis today likely
   secondary to steroids.  No bands on diff.
   -Abx as detailed above
   -f/u urine cx and blood cx
   -F/u sputum cx
   .
   # Seizure: ? seizure .  Continue to f/u Neuro recs.
   -Continue seizure prophylaxis w/ keppra
   .
   # Metastatic Breast Cancer: She is getting bevacizumab and Herceptin.
   She has brain metastasis and radiation induced necrosis which likely
   explains her cerebellar dysfunction.
   -management per oncology recs
   .
   # Elevated LFTs: Resolving.
   -Continue to trend
   .
   # Mild oral and pharyngeal dysphagia: pt has reduced coordination c/w
   cerebellum mets.
   -diet of nectar thick liquids and soft, moist solids. Avoid mixed
   consistencies that contain liquids and solids.
   -Pills whole with apple sauce
   -Aspiration precautions
   .
   # Anemia: HCT currently 28 and stable.
   -Continue to trend daily
   -guiac all stools
   ICU Care
   Nutrition: nectar thick liquids and soft, moist solids
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  with patient and husband
   [**Name (NI) 129**] status: FULL confirmed with patient
   Disposition: ICU

2143-11-23 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2143-11-21**]
   -tomorrow change steroid dosage to 4mg [**Hospital1 **]
   -needs family mtg w/ Drs [**Name5 (PTitle) 3650**] (primary onc) & [**Doctor Last Name 980**] (neuro-onc)
   -RT couldn't get induced sputum because she coughed up food when they
   tried
   -Have very low urine output so gave 80mg IV lasix at 4pm, after which
   she started peeing more, then tapered off
   -Was temporarily off nonrebreather but had to be placed back on
   non-rebreather
   [**2143-11-22**]
   - Family meeting today; Husband and Daughter want to keep the patient
   full code for now.  They understand the risk of intubation and the
   patient may not be able to be extubated.  They want to keep
   readdressing code status daily.  They are possibly interested in
   hospice, either home or inpatient closer to their home, but want to
   keep going with antibiotics and steroids for now.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2143-11-21**] 02:41 PM
   Vancomycin - [**2143-11-22**] 08:00 PM
   Cefipime - [**2143-11-23**] 03:53 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-11-22**] 11:31 AM
   Heparin Sodium (Prophylaxis) - [**2143-11-23**] 03:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-23**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 61 (57 - 73) bpm
   BP: 131/72(87) {95/50(60) - 139/72(87)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.1 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                    890 mL
                                                                     92 mL
   PO:
             TF:
   IVF:
                                                                    890 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  2,940 mL
                                                                    135 mL
   Urine:
                                                                  2,940 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,050 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   GENERAL: Breathing comfortably on NRB, able to sit up without
   desattingfrom 98-100%
   CARDIAC: Tachycardic. Normal S1, S2. No murmurs, rubs or [**Last Name (un) 2911**].
   LUNGS: diffuse late inspiratory crackles
   ABDOMEN: +BS. Soft, NT, ND. No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis.
   Labs / Radiology
   614 K/uL
   9.7 g/dL
   99 mg/dL
   0.9 mg/dL
   35 mEq/L
   4.2 mEq/L
   48 mg/dL
   99 mEq/L
   143 mEq/L
   30.3 %
   16.8 K/uL
        [image002.jpg]
                            [**2143-11-19**]  12:13 AM
                            [**2143-11-19**]  02:57 AM
                            [**2143-11-19**]  08:54 AM
                            [**2143-11-19**]  08:48 PM
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
   WBC
   14.2
   12.6
   21.3
   18.1
   16.8
   Hct
   27.5
   29.3
   28.4
   29.7
   30.3
   Plt
   [**Telephone/Fax (3) 9544**]88
   614
   Cr
   0.5
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   TCO2
   31
   31
   31
   Glucose
   95
   152
   165
   142
   129
   108
   99
   Other labs: PT / PTT / INR:14.3/33.6/1.2, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:91.3 %, Lymph:5.7 %, Mono:2.1 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9470**] is a 50 year-old lady w/ ER- Her2+ BRCA metastatic to bone,
   brain, liver and lung admitted for seizures and PNA then x-fer to [**Hospital Unit Name 10**]
   for respiratory distress in the setting of worsening B/L opacities on
   CXR.
   # Respiratory distress/hypoxia: CXR with worsening bilateral opacities
   and likely fluid overload.  CTA with no PE but significant for diffuse
   ground glass opacities.  CTA also with consolidation in the right
   middle lobe and right lower lobe which could represent infection or
   metastatic deposits to the lungs.  There is concern for lymphangitic
   spread of her breast cancer. There also could be contribution from
   pulmonary edema [**1-28**] diastolic dysfunction and possible infectious
   process / PNA. This is most likely due to lymphangitic spread of her
   BRCA, acc to outpatient oncologist.
   -continue empiric Abx  treatment with vancomycin, cefepime and
   azithromycin (day 4)
   -No lung biopsy given respiratory distress and patient wishes.
   -Continue aggressive diuresis today, 80mg lasix x 1
   -could consider non-invasive positive pressure ventillation if
   clinically worsening
   -Continue Prophylactic PCP treatment
   [**Name9 (PRE) **]/u sputum cx
   -Continue Decadron taper 4mg [**Hospital1 **] today
   .
   # Metastatic Breast Cancer: She is getting bevacizumab and Herceptin.
   She has brain metastasis and radiation induced necrosis which likely
   explains her cerebellar dysfunction.
   -management per oncology recs
   - ct seizure ppx w/ keppra
   .
   # Mild oral and pharyngeal dysphagia: pt has reduced coordination c/w
   cerebellum mets.
   -diet of nectar thick liquids and soft, moist solids. Avoid mixed
   consistencies that contain liquids and solids.
   -Pills whole with apple sauce
   -Aspiration precautions
   .
   # Anemia: HCT currently 28 and stable.
   -Continue to trend daily
   -guiac all stools
   ICU Care
   Nutrition: NPO (since was aspirating, taking pills w/ applesauce)
   Glycemic Control:  none
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  with patient and husband
   [**Name (NI) 129**] status: FULL confirmed with patient
 plan on family mtg later in
   PM to discuss goals of care
   Disposition: ICU

2143-11-23 10:09:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Decadron weaned down to 4mg dosing
   -Family meeting held with patient to be maintained as full code status
   -Continued hypoxemia prominent
   -Patient with continued negative fluid balance noted
   -FIO2 decreased to 0.6 but with rapid desaturation with any activity
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2143-11-21**] 02:41 PM
   Cefipime - [**2143-11-23**] 03:53 AM
   Vancomycin - [**2143-11-23**] 07:49 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-11-22**] 11:31 AM
   Heparin Sodium (Prophylaxis) - [**2143-11-23**] 03:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Pain: [**2-27**] Mild
   Flowsheet Data as of  [**2143-11-23**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 60 (57 - 74) bpm
   BP: 103/60(71) {95/50(60) - 139/72(87)} mmHg
   RR: 19 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.1 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                    890 mL
                                                                    352 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                    890 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                  2,940 mL
                                                                    135 mL
   Urine:
                                                                  2,940 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,050 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Diffuse, all lung fields., Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   614 K/uL
   99 mg/dL
   0.9 mg/dL
   35 mEq/L
   4.2 mEq/L
   48 mg/dL
   99 mEq/L
   143 mEq/L
   30.3 %
   16.8 K/uL
        [image002.jpg]
                            [**2143-11-19**]  12:13 AM
                            [**2143-11-19**]  02:57 AM
                            [**2143-11-19**]  08:54 AM
                            [**2143-11-19**]  08:48 PM
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
   WBC
   14.2
   12.6
   21.3
   18.1
   16.8
   Hct
   27.5
   29.3
   28.4
   29.7
   30.3
   Plt
   [**Telephone/Fax (3) 9544**]88
   614
   Cr
   0.5
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   TCO2
   31
   31
   31
   Glucose
   95
   152
   165
   142
   129
   108
   99
   Other labs: PT / PTT / INR:14.3/33.6/1.2, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:91.3 %, Lymph:5.7 %, Mono:2.1 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR-persistent bilateral patchy infiltrates
all concerning for
   persistent impact of edema, pneumonitis and likely component of
   lymphangitic carcinomatosis.
   Microbiology: Flu-negative, no new bacterial cultures
   Assessment and Plan
   50 yo female with history of metastatic breast cancer now admitted with
   hypoxemia and diffuse pulmonary infiltrates noted with concern for both
   influenza and bacterial insult driving presentation.
   1)Respiratory Failure
Edema may be playing a role and will continue to
   treat with diruesis.  We do not have a final clear picture of the
   unifying diagnosis as regards infection as cultures have been negative
   to date.  Will continue to provide treatment for likley infectious
   source and maintain steroids and diruesis across time now.  Aspiration
   as possible is suggested but not obvious clear single trigger
   -No further Rx per oncology, we have trialed high dose steroids
   -Vanco/Cefepime/Bactrim DS qd with Vanco/Cefepime x 7 days and bactrim
   while steroids in place
   -Will maintain negative fluid balance as possible
   -Wean O2 as tolerated across time
   ICU Care
   Nutrition: Po diet limited by speed of desaturation
will work to
   maintain po intake as possible but is severely limited.
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: Hep Sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will continue to discuss trend and treatment
   with family and patient.
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2143-11-24 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Satting in mid-90s on 60% face mask, but does not tolerate any
   physical exertion.
   -Hypotensive (got Atenolol in AM, which was subsequently d/c'd), so we
   were unable to diurese further in AM.  Gave 80mg IV Lasix in PM, with
   good response.  However, positive as was getting extra IVF with Bactrim
   (most concentrated possible).
   -Started on empiric treatment for PCP with IV Bactrim (concentrated in
   order to minimize fluids).
   -The patient fell out of bed and was found on the floor.  She was alert
   and oriented, but unable to state how she ended up there.  She was
   returned back to bed. O2 sats returned to high 90s.  Neurological exam
   was non-focal. She was placed in Posey restraints.  [**Location (un) 239**] J collar
   ordered.  STAT CT head and C-spine were ordered (will be done at 7am)
   Event note was written.  Attending was notified.
   -Was transiently on 100% [**Last Name (un) 9565**] mask after fall, but is now back on 60%
   face mask and satting >95%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2143-11-23**] 04:00 PM
   Vancomycin - [**2143-11-23**] 08:22 PM
   Bactrim (SMX/TMP) - [**2143-11-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-11-23**] 08:23 PM
   Furosemide (Lasix) - [**2143-11-23**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-24**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 77 (54 - 78) bpm
   BP: 120/64(78) {85/39(53) - 133/88(88)} mmHg
   RR: 20 (8 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.1 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  1,319 mL
                                                                    577 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,199 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    280 mL
   Urine:
                                                                  1,380 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -61 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///34/
   Physical Examination
   GENERAL: Alert, responsive, NAD  on 60% face mask
   CARDIAC: Normal S1, S2. No murmurs, rubs or [**Last Name (un) 2911**].
   LUNGS: diffuse inspiratory crackles
   ABDOMEN: +BS. Soft, NT, ND. No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis.
   Labs / Radiology
   605 K/uL
   9.8 g/dL
   98 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   37 mg/dL
   98 mEq/L
   142 mEq/L
   29.3 %
   13.6 K/uL
        [image002.jpg]
                            [**2143-11-19**]  02:57 AM
                            [**2143-11-19**]  08:54 AM
                            [**2143-11-19**]  08:48 PM
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
                            [**2143-11-24**]  04:15 AM
   WBC
   14.2
   12.6
   21.3
   18.1
   16.8
   13.6
   Hct
   27.5
   29.3
   28.4
   29.7
   30.3
   29.3
   Plt
   [**Telephone/Fax (3) 9544**]88
   614
   605
   Cr
   0.5
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   0.9
   TCO2
   31
   31
   Glucose
   95
   152
   165
   142
   129
   108
   99
   98
   Other labs: PT / PTT / INR:15.1/32.4/1.3, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:91.3 %, Lymph:5.7 %, Mono:2.1 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9470**] is a 50 year-old lady w/ ER- Her2+ BRCA metastatic to bone,
   brain, liver and lung admitted for seizures and PNA then x-fer to [**Hospital Unit Name 10**]
   for respiratory distress in the setting of worsening B/L opacities on
   CXR.
   .
   s/p Fall: Neurological Exam stable
   -Serial Neurological Exams
   -CT head and C-spine
   -Continue Posey restraints and fall precautions
   -Continue C-collar until negative CT C-spine
   # Respiratory distress/hypoxia: Some clinical improvement after
   aggressive diuresis, CXR with radiographic improvement as well compared
   to several days ago.  This is most likely due to lymphangitic spread of
   her BRCA, acc to outpatient oncologist.
   There also could be contribution from pulmonary edema [**1-28**] diastolic
   dysfunction and possible infectious process / PNA.
   -continue empiric Abx  treatment with vancomycin, cefepime and
   azithromycin (day 6 of a 7 day course)
   -No lung biopsy given respiratory distress and patient wishes.
   -Fluid balance goal of even today
   -could consider non-invasive positive pressure ventillation if
   clinically worsening
   -Continue PCP treatment with IV Bactrim (day 2).
   -f/u all outstanding cultures
   -Continue Decadron taper 4mg [**Hospital1 **] today
   .
   # Metastatic Breast Cancer: She is getting bevacizumab and Herceptin.
   She has brain metastasis and radiation induced necrosis which likely
   explains her cerebellar dysfunction.
   -management per oncology recs
   - ct seizure ppx w/ keppra
   .
   # Mild oral and pharyngeal dysphagia: pt has reduced coordination c/w
   cerebellum mets.
   -diet of nectar thick liquids and soft, moist solids. Avoid mixed
   consistencies that contain liquids and solids.
   -Pills whole with apple sauce
   -Aspiration precautions
   .
   # Anemia: HCT currently 28 and stable.
   -Continue to trend daily
   -guiac all stools
   ICU Care
   Nutrition: nectar thick liquids and soft, moist solids
   Glycemic Control:  none
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  with patient and husband
   [**Name (NI) 129**] status: FULL confirmed.  Discussion with family  regarding status
   and possibility of inpatient hospice.
   Disposition: ICU

2143-11-24 08:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pneumonitis
   Pulmonary Edema
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with intermittent hypotension noted in the setting of
   attempted diuresis
   -PCP treatment started with IV Bactrim given persistence of substantial
   infiltrates and no reasonable capacity to test further.
   -Patient with unwitnessed fall from bed with eccymosis above left
   orbit.  Patient without LOC.  Patient return to bed and without
   significant deficits seen.  No C-Spine tenderness noted.  CT planned in
   follow up and yet to be conducted at the time of this note.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2143-11-23**] 04:00 PM
   Vancomycin - [**2143-11-23**] 08:22 PM
   Bactrim (SMX/TMP) - [**2143-11-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-11-23**] 08:23 PM
   Furosemide (Lasix) - [**2143-11-23**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-24**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 67 (54 - 78) bpm
   BP: 138/70(88) {85/39(53) - 138/88(88)} mmHg
   RR: 21 (8 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.1 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  1,319 mL
                                                                    586 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,199 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    280 mL
   Urine:
                                                                  1,380 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -61 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Persistent and increased cyanosis noted in
   peri-orbital area
   Head, Ears, Nose, Throat: Normocephalic, Eccymosis above left orbit
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : dominant finding, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   605 K/uL
   98 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   37 mg/dL
   98 mEq/L
   142 mEq/L
   29.3 %
   13.6 K/uL
        [image002.jpg]
                            [**2143-11-19**]  02:57 AM
                            [**2143-11-19**]  08:54 AM
                            [**2143-11-19**]  08:48 PM
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
                            [**2143-11-24**]  04:15 AM
   WBC
   14.2
   12.6
   21.3
   18.1
   16.8
   13.6
   Hct
   27.5
   29.3
   28.4
   29.7
   30.3
   29.3
   Plt
   [**Telephone/Fax (3) 9544**]88
   614
   605
   Cr
   0.5
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   0.9
   TCO2
   31
   31
   Glucose
   95
   152
   165
   142
   129
   108
   99
   98
   Other labs: PT / PTT / INR:15.1/32.4/1.3, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:91.3 %, Lymph:5.7 %, Mono:2.1 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR-
   Microbiology: No new results seen
   Assessment and Plan
   50 yo female with history of metastatic breast cancer now with
   admission with severe hypoxemic respiratory compromise. This is in the
   setting of likely lymphangitic spread of cancer but with acute
   process--likely infectious--leading to a diffuse pattern of pulmonary
   edema and likely pneumonitis with some improvement in the setting of
   diuresis.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])--This remains a diagnostic
   challenge.  We have had extensive testing for influenza and in fact
   that plus all other culture data remains negative.  We have had modest
   improvement in oxygenation with diuresis but now with rising creatinine
   and falling blood pressure reasonable limit has been reached.  In this
   setting with persistent and diffuse infiltrates we have added empiric
   treatment for PCP as improvement has clearly plateaued and additional
   therapeutic interventions are quite limited and although sputum samples
   have been negative for PCP in the absence of HIV these samples do have
   limited sensitivity.
   -Decadron at 4mg dose
   -Cefepime/Vanco/Bactrim IV/Azithromycin
   -Will continue to support with oxygen as needed
   2)FALL
Patient clearly confused but easily re-oriented.  Patient had
   equal pupils and preserved reflexes and motor strength bilaterally
   -CT head and C-Spine this morning
   -Denies any tenderness of C-Spine at this time
   -Will move to D/C C-collar when CT scan completed
   3)Breast Cancer-Discussed with Dr. [**Last Name (STitle) 3650**]
   [**Name (STitle) **] further intervention suggested at this time
   -Will continue to discuss future care in light of improvement in
   respiratory status with hospice discussed as a possible direction
   ICU Care
   Nutrition: PO intake at this time
is limited and will maintain calorie
   counts
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition :ICU
   Total time spent: 40

2143-11-25 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Held family meeting.  Now DNR/DNI.  Plan is to get palliative care
   team to speak with patient/family tomorrow and initiate movements
   towards discharge, likely to an LTAC.  Plan to give PCP treatment [**Name Initial (PRE) **] few
   days to work and likely discharge to facility mid-week.
   - Fluid balance was positive 1.5L at midnight so gave 80mg IV Lasix.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-11-24**] 08:47 PM
   Cefipime - [**2143-11-25**] 03:44 AM
   Bactrim (SMX/TMP) - [**2143-11-25**] 07:05 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2143-11-24**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2143-11-24**] 12:00 PM
   Furosemide (Lasix) - [**2143-11-25**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-25**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 66 (53 - 77) bpm
   BP: 113/44(62) {99/44(62) - 138/82(88)} mmHg
   RR: 16 (6 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.1 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  2,190 mL
                                                                    627 mL
   PO:
             TF:
   IVF:
                                                                  2,190 mL
                                                                    627 mL
   Blood products:
   Total out:
                                                                    670 mL
                                                                    820 mL
   Urine:
                                                                    670 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,520 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: High flow neb, 95% FiO2
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, High flow facemask
   Cardiovascular: (S1: Normal), (S2: Normal), No murmur appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Bronchial: ), coarse
   breath sounds with crackles at bases b/l
   Abdominal: Soft, mildly tender to deep palpation in lower quadrants
   b/l.  no rebound or guarding, nondistended.
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   578 K/uL
   9.6 g/dL
   98 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.4 mEq/L
   26 mg/dL
   99 mEq/L
   135 mEq/L
   29.4 %
   16.1 K/uL
        [image002.jpg]
                            [**2143-11-19**]  08:54 AM
                            [**2143-11-19**]  08:48 PM
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
                            [**2143-11-24**]  04:15 AM
                            [**2143-11-25**]  04:00 AM
   WBC
   12.6
   21.3
   18.1
   16.8
   13.6
   Hct
   29.3
   28.4
   29.7
   30.3
   29.3
   Plt
   426
   557
   588
   614
   605
   Cr
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   0.9
   0.9
   TCO2
   31
   31
   Glucose
   152
   165
   142
   129
   108
   99
   98
   98
   Other labs: PT / PTT / INR:15.1/32.4/1.3, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:91.3 %, Lymph:5.7 %, Mono:2.1 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Aspergillus Ag and B Glucan pending
   C Spine:
   IMPRESSION:
   1. No acute cervical fracture or malalignment.
   2. Known C4 metastasis. Sclerotic lesion seen on the vertebral body,
   also
   suspicious for metastasis.
   3. Incompletely assessed posterior facets despite stable post-surgical
   appearance.
   Head CT:
   No acute intracranial injury. Stable post-surgical change in the
   posterior fossa. Fluid in the mastoid air cells.
   Assessment and Plan
   Ms. [**Known lastname 9470**] is a 50 year-old lady w/ ER- Her2+ [**Known lastname 9587**] metastatic to bone,
   brain, liver and lung admitted for seizures and PNA then x-fer to [**Hospital Unit Name 10**]
   for respiratory distress in the setting of worsening B/L opacities on
   CXR.
   .
   # Respiratory distress/hypoxia: Some clinical improvement after
   aggressive diuresis, CXR with radiographic improvement as well compared
   to several days ago.  Respiratory distress felt to be likely
   lymphangitic spread of her [**Last Name (LF) 9587**], [**First Name3 (LF) 24**] outpatient oncologist. Improvement
   over past several days could be due to diuresis versus PCP tx, although
   low suspicion for PCP [**Name Initial (PRE) 5656**].
   - empiric Abx  treatment with vancomycin, cefepime to end today (7 day
   course completed)
   -No lung biopsy given respiratory distress and patient wishes.
   -Fluid balance goal of even today
   - attempt to wean oxygen as tolerated
   -Continue PCP treatment with IV Bactrim for total 5 day course to end
   [**2143-11-27**].
   -f/u all outstanding cultures
   -Continue Decadron 4mg [**Hospital1 **]
   .
   # Metastatic Breast Cancer: She is getting bevacizumab and Herceptin.
   She has brain metastasis and radiation induced necrosis which likely
   explains her cerebellar dysfunction.   Palliative care to see patient
   today and discuss goals of care.
   -cont seizure ppx w/ keppra
   .
   .
   #s/p Fall: Neurological Exam stable, Head CT and C spine wnl.
   -Continue Posey restraints and fall precautions
   .
   # Mild oral and pharyngeal dysphagia: pt has reduced coordination c/w
   cerebellum mets.
   -diet of nectar thick liquids and soft, moist solids. Avoid mixed
   consistencies that contain liquids and solids.
   -Pills whole with apple sauce
   -Aspiration precautions
   # Anemia: HCT currently 28 and stable.
   -Continue to trend daily
   -guiac all stools
   .
   #FEN:  regular diet, soft
   .
   PPX: heparin SQ, PPO
   # Access Rt Subclavian port
   .
   CODE: DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2143-11-25 12:55:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Family meeting with extensive discussion--currently we expect a
   persistence of respiratory compromise and hypoxemia given absence of
   further trend to improvement.  Will maintain patient as DNR/DNI in
   concert with their wishes.  Will continue with full treatment course at
   this time and look to move to hospice based facility with inpatient
   capacity going forward.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2143-11-25**] 03:44 AM
   Bactrim (SMX/TMP) - [**2143-11-25**] 07:05 AM
   Vancomycin - [**2143-11-25**] 07:46 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-11-25**] 03:00 AM
   Omeprazole (Prilosec) - [**2143-11-25**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2143-11-25**] 12:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 77 (53 - 77) bpm
   BP: 101/60(70) {99/44(0) - 131/82(86)} mmHg
   RR: 22 (6 - 22) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.1 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  2,190 mL
                                                                    850 mL
   PO:
             TF:
   IVF:
                                                                  2,190 mL
                                                                    850 mL
   Blood products:
   Total out:
                                                                    670 mL
                                                                    900 mL
   Urine:
                                                                    670 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,520 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   578 K/uL
   98 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.4 mEq/L
   26 mg/dL
   99 mEq/L
   135 mEq/L
   29.4 %
   16.1 K/uL
        [image002.jpg]
                            [**2143-11-19**]  08:48 PM
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
                            [**2143-11-24**]  04:15 AM
                            [**2143-11-25**]  04:00 AM
                            [**2143-11-25**]  08:00 AM
   WBC
   12.6
   21.3
   18.1
   16.8
   13.6
   16.1
   Hct
   29.3
   28.4
   29.7
   30.3
   29.3
   29.4
   Plt
   426
   557
   588
   [**Telephone/Fax (3) 9584**]
   Cr
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   0.9
   0.9
   TCO2
   31
   Glucose
   152
   165
   142
   129
   108
   99
   98
   98
   Other labs: PT / PTT / INR:16.5/32.0/1.5, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:94.3 %, Lymph:2.9 %, Mono:1.9 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR-Patient with improvement in pulmonary infiltrates in left
   side
   CT Head-no bleed
   C-Spine-no fracture
   Assessment and Plan
   50 yo female with metastatic breast cancer and with significant
   involvment in brain, bone and lung.  We have persistent respiratory
   compromise with ongoing treatment and this is likely attributable to
   non-cardiogenic edema, possible initial infectious insult but do not
   have pathogen identified and some contribution from lymphangitic
   carcinomatosis.  In this setting we have worked with family to
   Respiratory Failure-Patient with small amount of improvement in
   pulmonary infiltrates but with persistent and significant hypoxemia
   -Dex 4mg q 12 hours to continue primarily for CNS invovlement
   -Cefepime/Vanco  to be completed today
   -Bactrim IV
would expect improvement at 5 days
   -Will look to wean FIO2 as possible today
   -No further diuresis given creatinine rise and current orthostasis
   Breast Cancer-
   -Keppra
   -Will need to plan for disposition based on clinical course which has
   been static but with some improvement
   ICU Care
   Nutrition: po intake
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2143-11-26 07:31:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: Metastatic breast cancer
   24 Hour Events:
   - Unable wean O2 yesterday, had episode of respiratory distress with
   desats, now requiring 95% face mask plus 5L NC
   - I/O: +600 at 2100, gave lasix 80 mg IV
   - Vanc and cefepime course completed yesterday
   - Plan for family meeting today at 1630
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2143-11-25**] 03:07 PM
   Vancomycin - [**2143-11-25**] 08:12 PM
   Bactrim (SMX/TMP) - [**2143-11-26**] 06:04 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2143-11-25**] 07:47 AM
   Heparin Sodium (Prophylaxis) - [**2143-11-25**] 01:04 PM
   Furosemide (Lasix) - [**2143-11-25**] 10:19 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-26**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 68 (62 - 84) bpm
   BP: 110/62(74) {90/44(56) - 121/70(80)} mmHg
   RR: 16 (6 - 22) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.7 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  2,230 mL
                                                                    323 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,990 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    595 mL
   Urine:
                                                                  1,560 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                   -272 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 90%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, High flow facemask
   Cardiovascular: RRR, No murmur appreciated
   Respiratory / Chest: Coarse breath sounds with crackles at bases b/l
   Abdominal: Soft, mildly tender to deep palpation in lower quadrants
   b/l.  No rebound or guarding, nondistended.
   Extremities: No peripheral edema, skin warm
   Neurologic: Attentive, follows simple commands
   Labs / Radiology
   536 K/uL
   9.4 g/dL
   96 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   24 mg/dL
   93 mEq/L
   136 mEq/L
   28.6 %
   14.0 K/uL
        [image002.jpg]
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
                            [**2143-11-24**]  04:15 AM
                            [**2143-11-25**]  04:00 AM
                            [**2143-11-25**]  08:00 AM
                             [**2143-11-26**]  04:15 AM
   WBC
   12.6
   21.3
   18.1
   16.8
   13.6
   16.1
   14.0
   Hct
   29.3
   28.4
   29.7
   30.3
   29.3
   29.4
   28.6
   Plt
   426
   557
   588
   [**Telephone/Fax (3) 9584**]
   536
   Cr
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   0.9
   0.9
   1.1
   Glucose
   152
   165
   142
   129
   108
   99
   98
   98
   96
   Other labs: PT / PTT / INR:18.0/42.3/1.6, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:93.2 %, Lymph:4.5 %, Mono:1.4 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
[**2143-11-21**] 12:04 pm SPUTUM     Site: INDUCED
                            **FINAL REPORT [**2143-11-23**]**
   GRAM STAIN (Final [**2143-11-21**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
  RESPIRATORY CULTURE (Final [**2143-11-23**]):
      Commensal Respiratory Flora Absent.
      YEAST.    SPARSE GROWTH.
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
      [**2143-11-22**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
   Assessment and Plan
   Ms. [**Known lastname 9470**] is a 50 year-old female with metastatic breast cancer to
   [**Last Name (LF) **], [**First Name3 (LF) 503**], liver and lung admitted for seizures and PNA then
   transferred to the [**Hospital Unit Name 10**] for respiratory distress in the setting of
   worsening B/L opacities on CXR.
   .
   #. Respiratory distress/hypoxia: Some mild clinical improvement after
   aggressive diuresis but overall patient is not able to be weaned fro
   her oxygen requirement.  Her distress is likely combination of
   lymphangitis spread of her breast cancer, fluid overload that is not
   being adequately mobilized from her lungs for diuresis, and possible
   infection.
   - Antibiotic 8-day course with vancomycin, cefepime ended [**11-25**]
   - No lung biopsy given respiratory distress and patient wishes.
   - Fluid balance goal of even today, requiring 80mg IV Lasix to keep her
   even every day
   - Attempt to wean oxygen as tolerated
   - Continue PCP treatment with IV Bactrim for total 5 day course to end
   [**2143-11-27**] (currently on day 4)
   - F/u all outstanding cultures
   - Continue Decadron 4mg [**Hospital1 **]
   - Add morphine for comfort to medication regimen
   .
   #. Metastatic Breast Cancer: She was getting bevacizumab and Herceptin.
   She has brain metastasis and radiation induced necrosis which likely
   explains her cerebellar dysfunction.
   - FU palliative care recs
   - Continue seizure ppx w/ keppra
   - Plan for family meeting today at 4:30pm
   .
   #. S/p Fall: Neurological exam continues to be stable, Head CT and C
   spine wnl.
   - Continue Posey restraints and fall precautions
   .
   #. Mild oral and pharyngeal dysphagia: Has reduced coordination c/w
   cerebellar mets.
   - Diet of nectar thick liquids and soft, moist solids. Avoid mixed
   consistencies that contain liquids and solids.
   - Pills whole with apple sauce
   - Aspiration precautions
   # Anemia: HCT currently 28.6 and stable.
   - Continue to trend daily
   - Guaiac all stools
   ICU Care
   Nutrition: Regular diet, soft
   Glycemic Control:  None
   Lines: Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Likely to LTACH in next few days with hospice ?

2143-11-26 09:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with persistent hypoxemic respiratory compromise
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2143-11-25**] 03:07 PM
   Vancomycin - [**2143-11-25**] 08:12 PM
   Bactrim (SMX/TMP) - [**2143-11-26**] 06:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-11-25**] 01:04 PM
   Furosemide (Lasix) - [**2143-11-25**] 10:19 PM
   Omeprazole (Prilosec) - [**2143-11-26**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2143-11-26**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 73 (63 - 84) bpm
   BP: 113/68(80) {90/44(56) - 118/70(80)} mmHg
   RR: 21 (7 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.7 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  2,230 mL
                                                                    347 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,990 mL
                                                                    347 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    635 mL
   Urine:
                                                                  1,560 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Stable eccymosis at left orbit
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Rhonchorous: ), Some decrease in crackles
   intesity but still present
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   536 K/uL
   96 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   24 mg/dL
   93 mEq/L
   136 mEq/L
   28.6 %
   14.0 K/uL
        [image002.jpg]
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
                            [**2143-11-24**]  04:15 AM
                            [**2143-11-25**]  04:00 AM
                            [**2143-11-25**]  08:00 AM
                             [**2143-11-26**]  04:15 AM
   WBC
   12.6
   21.3
   18.1
   16.8
   13.6
   16.1
   14.0
   Hct
   29.3
   28.4
   29.7
   30.3
   29.3
   29.4
   28.6
   Plt
   426
   557
   588
   [**Telephone/Fax (3) 9584**]
   536
   Cr
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   0.9
   0.9
   1.1
   Glucose
   152
   165
   142
   129
   108
   99
   98
   98
   96
   Other labs: PT / PTT / INR:18.0/42.3/1.6, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:93.2 %, Lymph:4.5 %, Mono:1.4 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: AG-11
   Imaging: CXR-Worsening right lower lobe opacity--other areas unchanged
   Microbiology: No new culture data
   Assessment and Plan
   50 yo female with metastatic breast cancer now admitted wtih hypoxemic
   respiratory compromise who has persistent and significant hypoxemia
   despite maximal medical therapy.  We have continued to treat all
   categories of insult.  This has resulted in a very clear plateau at
   this time with persistent hypoxemia and inability to maintain capacity
   to oxygenate with even the most minimal effort such as turning in bed.
   Respiratory Failure/Hypoxemia-
   -Bactrim in place at 3 days of trial and we simply have no change in
   status
will continue to 5 days to evaluate for any improvement and
   consider D/C if no change seen
   -Continue to maintain even fluid balance to negative if possible
   -O2 as needed
   Metastatic Breast Cancer-
   -Neurontin
   -Decadon
   -Keppra
   -No further Rx possible per Dr. [**Last Name (STitle) 3650**]
   ICU Care
   Nutrition: po intake as possible
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Discussed with Dr. [**Last Name (STitle) 3650**] and Family and do
   need to determine pathway of care in the setting of no expected change
   in clinical picture.  Home is not reasonable, continued care in ICU is
   undesirable to patient, will look to inpatient facility closer to home
   in [**Hospital1 97**].  This was discussed with patient in detail.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes

2143-11-27 07:03:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: Metastatic breast cancer
   24 Hour Events:
   - Still has continuous desats on NRB
   - Family meeting held and patient made CMO
   - Plan to stay in ICU for now with possible hospice at home versus
   hospice facility
   - Changed medications to increase morphine with standing ativan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2143-11-25**] 03:07 PM
   Vancomycin - [**2143-11-25**] 08:12 PM
   Bactrim (SMX/TMP) - [**2143-11-26**] 12:30 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2143-11-26**] 07:41 AM
   Heparin Sodium (Prophylaxis) - [**2143-11-26**] 11:48 PM
   Morphine Sulfate - [**2143-11-27**] 04:44 AM
   Lorazepam (Ativan) - [**2143-11-27**] 04:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-27**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 73 (63 - 73) bpm
   BP: 109/60(72) {94/48(60) - 119/79(88)} mmHg
   RR: 18 (5 - 22) insp/min
   SpO2: 81%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.7 kg (admission): 70 kg
   Height: 65 Inch
                  Total In:
                                                                    798 mL
                  PO:
                                                                     60 mL
                  TF:
   IVF:
                                                                    738 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                      0 mL
   Urine:
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -372 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 81%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, High flow facemask
   Cardiovascular: RRR, No murmur appreciated
   Respiratory / Chest: Coarse breath sounds with crackles at bases b/l
   Abdominal: Soft, mildly tender to deep palpation in lower quadrants
   b/l.  No rebound or guarding, nondistended.
   Extremities: No peripheral edema, skin warm
   Neurologic: Attentive, follows simple commands
   Labs / Radiology
   536 K/uL
   9.4 g/dL
   96 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   24 mg/dL
   93 mEq/L
   136 mEq/L
   28.6 %
   14.0 K/uL
        [image002.jpg]
   No labs drawn today
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
                            [**2143-11-24**]  04:15 AM
                            [**2143-11-25**]  04:00 AM
                            [**2143-11-25**]  08:00 AM
                             [**2143-11-26**]  04:15 AM
   WBC
   12.6
   21.3
   18.1
   16.8
   13.6
   16.1
   14.0
   Hct
   29.3
   28.4
   29.7
   30.3
   29.3
   29.4
   28.6
   Plt
   426
   557
   588
   [**Telephone/Fax (3) 9584**]
   536
   Cr
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   0.9
   0.9
   1.1
   Glucose
   152
   165
   142
   129
   108
   99
   98
   98
   96
   Other labs: PT / PTT / INR:18.0/42.3/1.6, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:93.2 %, Lymph:4.5 %, Mono:1.4 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   No Chest Xray today
   Assessment and Plan
   Ms. [**Known lastname 9470**] is a 50 year-old female with metastatic breast cancer to
   [**Last Name (LF) **], [**First Name3 (LF) 503**], liver and lung admitted for seizures and PNA then
   transferred to the [**Hospital Unit Name 10**] for respiratory distress in the setting of
   worsening B/L opacities on CXR.
   .
   #. Respiratory distress/hypoxia: Patient is not able to be weaned from
   her oxygen requirement and she understands the poor prognosis of her
   condition.  Family meeting was held yesterday and patient was made
   comfort measures only.  She has finished a course of antibiotics and
   trial of Bactrim for PCP [**Name9 (PRE) 9611**] without effect.
   - Continue morphine for air hunger and comfort
   - Have added Ativan 0.5mg q6h scheduled to help anxiety and will allow
   patient to refuse if she wishes to be more awake with her family
   - Added prn Ativan
   - Continue current prn oxycodone for pain
   - Continue morphine 2-5mg IV or 5-10mg SL q2h prn for SOB
   - Will explore with care management hospice at home vs inpatient
   hospice here
   - F/u all outstanding cultures
   - Continue Decadron 4mg IV BID
   - Will d/c PPI/venlafaxine
   #. Metastatic Breast Cancer: She was getting bevacizumab and Herceptin.
   She has brain metastasis and radiation induced necrosis which likely
   explains her cerebellar dysfunction.
   - Appreciate palliative care recs
   - Continue seizure ppx w/ keppra
   - Future care planning as above
   #. S/p Fall: Neurological exam continues to be stable, Head CT and C
   spine wnl.
   - Continue Posey restraints and fall precautions
   #. Mild oral and pharyngeal dysphagia: Has reduced coordination c/w
   cerebellar mets.
   - Diet of nectar thick liquids and soft, moist solids. Avoid mixed
   consistencies that contain liquids and solids.
   - Pills whole with apple sauce
   - Food given for comfort only
   - Aspiration precautions
   # Anemia: HCT currently 28.6 and stable.
   - Continue to trend, but can likely change to every other day lab draws
   ICU Care
   Nutrition: Regular diet, soft
   Glycemic Control:  None
   Lines: Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: SC heparin
 will stop
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Likely to LTACH in next few days with hospice vs staying
   in ICU

2143-11-27 12:40:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory Failure
   Metastatic Breast Cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extensive discussions held with family and current plan of care based
   upon inability to develop a reasonable trend to improvement despite
   maximal medical therapy for acute change in the setting of significant
   metastatic breast cancer goals of care were moved to be ones of comfort
   measures and hospice placement.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2143-11-25**] 03:07 PM
   Vancomycin - [**2143-11-25**] 08:12 PM
   Bactrim (SMX/TMP) - [**2143-11-26**] 12:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-11-26**] 11:48 PM
   Lorazepam (Ativan) - [**2143-11-27**] 04:44 AM
   Morphine Sulfate - [**2143-11-27**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-27**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 73 (63 - 73) bpm
   BP: 109/60(72) {99/48(60) - 119/79(88)} mmHg
   RR: 18 (5 - 22) insp/min
   SpO2: 81%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.7 kg (admission): 70 kg
   Height: 65 Inch
                  Total In:
                                                                    798 mL
                  PO:
                                                                     60 mL
                  TF:
   IVF:
                                                                    738 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                     80 mL
   Urine:
                                                                  1,170 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -372 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 81%
   ABG: ////
   Physical Examination
   General Appearance: No(t) No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   536 K/uL
   96 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   24 mg/dL
   93 mEq/L
   136 mEq/L
   28.6 %
   14.0 K/uL
        [image002.jpg]
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
                            [**2143-11-24**]  04:15 AM
                            [**2143-11-25**]  04:00 AM
                            [**2143-11-25**]  08:00 AM
                             [**2143-11-26**]  04:15 AM
   WBC
   12.6
   21.3
   18.1
   16.8
   13.6
   16.1
   14.0
   Hct
   29.3
   28.4
   29.7
   30.3
   29.3
   29.4
   28.6
   Plt
   426
   557
   588
   [**Telephone/Fax (3) 9584**]
   536
   Cr
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   0.9
   0.9
   1.1
   Glucose
   152
   165
   142
   129
   108
   99
   98
   98
   96
   Other labs: PT / PTT / INR:18.0/42.3/1.6, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:93.2 %, Lymph:4.5 %, Mono:1.4 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   50 yo female with metastatic breast cancer and with significant and
   persistent impairment in regards to oxygenation despite maximal medical
   therapy.  We have a continued tension with persistent hypoxemia and now
   with MSO4 used for symptom control in interaction with patient around
   dosing.  Ativan to be used as well.  We do have very clear discussions
   with patient and family with current goals of care clear and plan to
   manage symptoms in place.
   -MSO4 PRN
   -Ativan PRN
   -O2 as needed
   -Will continue to discuss with palliative care team disposition going
   forward.
   ICU Care
   Nutrition: PO as desired
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor with hospice plan clarified
   Total time spent: 40 minutes

2143-11-28 06:54:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: Metastatic breast cancer
   24 Hour Events:
   - On morphine gtt
   - Family at bedside entire night, including husband
   Allergies:
   [**Name2 (NI) 83**] Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2143-11-25**] 03:07 PM
   Vancomycin - [**2143-11-25**] 08:12 PM
   Bactrim (SMX/TMP) - [**2143-11-26**] 12:30 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2143-11-27**] 08:05 PM
   Lorazepam (Ativan) - [**2143-11-27**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-28**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 104 (104 - 119) bpm
   BP: 80/50(71) {80/50(71) - 105/64(71)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 70%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.7 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                     47 mL
                                                                     53 mL
   PO:
             TF:
   IVF:
                                                                     47 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                    240 mL
                                                                     50 mL
   Urine:
                                                                    240 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -193 mL
                                                                      3 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 70%
   ABG: ////
   Physical Examination
   General: Patient with agonal breathing laying in bed, minimally
   responsive, family at bedside
   HEENT: Lips and skin blue
   Labs / Radiology
        No labs today
   [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
                            [**2143-11-24**]  04:15 AM
                            [**2143-11-25**]  04:00 AM
                            [**2143-11-25**]  08:00 AM
                             [**2143-11-26**]  04:15 AM
   WBC
   12.6
   21.3
   18.1
   16.8
   13.6
   16.1
   14.0
   Hct
   29.3
   28.4
   29.7
   30.3
   29.3
   29.4
   28.6
   Plt
   426
   557
   588
   [**Telephone/Fax (3) 9584**]
   536
   Cr
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   0.9
   0.9
   1.1
   Glucose
   152
   165
   142
   129
   108
   99
   98
   98
   96
   Other labs: PT / PTT / INR:18.0/42.3/1.6, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:93.2 %, Lymph:4.5 %, Mono:1.4 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9470**] is a 50 year-old female with metastatic breast cancer to
   [**Last Name (LF) **], [**First Name3 (LF) 503**], liver and lung admitted for seizures and PNA then
   transferred to the [**Hospital Unit Name 10**] for respiratory distress in the setting of
   worsening B/L opacities on CXR.
   .
   #. Respiratory distress/hypoxia and Metastatic Breast Cancer: Currently
   comfort measures only.  On morphine gtt and ativan prn.
   - Continue morphine for air hunger and comfort
   - Add scopolamine patch for secretions
   - FU palliative care recs
   - Have dc
ed all other meds as patient not likely to benefit and can
   take
   - Have added PR Tylenol
   #. Mild oral and pharyngeal dysphagia: Food given for comfort only
   ICU Care
   Nutrition: As above
   Glycemic Control:
   Lines: Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT: None
   Stress ulcer: None
   VAP:  None
   Comments:
   Communication:  Comments:  With family, at bedside
   Code status: Comfort measures only, DNR/DNI
   Disposition: Will stay in unit with palliation

2143-11-28 10:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Breast Cancer-Metastatic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with ongoing MSO4 dosing to aid with patient comfort which has
   been successful in maintaining patient comfort.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2143-11-25**] 03:07 PM
   Vancomycin - [**2143-11-25**] 08:12 PM
   Bactrim (SMX/TMP) - [**2143-11-26**] 12:30 PM
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2143-11-27**] 08:05 PM
   Lorazepam (Ativan) - [**2143-11-27**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2143-11-28**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 101 (101 - 119) bpm
   BP: 80/50(71) {80/50(71) - 105/64(71)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 70%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.7 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                     47 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                     47 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    240 mL
                                                                     50 mL
   Urine:
                                                                    240 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -193 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 70%
   ABG: ////
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   536 K/uL
   96 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   24 mg/dL
   93 mEq/L
   136 mEq/L
   28.6 %
   14.0 K/uL
        [image002.jpg]
                            [**2143-11-20**]  04:47 AM
                            [**2143-11-21**]  04:04 AM
                            [**2143-11-21**]  03:01 PM
                            [**2143-11-22**]  03:31 AM
                            [**2143-11-22**]  04:00 PM
                            [**2143-11-23**]  04:30 AM
                            [**2143-11-24**]  04:15 AM
                            [**2143-11-25**]  04:00 AM
                            [**2143-11-25**]  08:00 AM
                             [**2143-11-26**]  04:15 AM
   WBC
   12.6
   21.3
   18.1
   16.8
   13.6
   16.1
   14.0
   Hct
   29.3
   28.4
   29.7
   30.3
   29.3
   29.4
   28.6
   Plt
   426
   557
   588
   [**Telephone/Fax (3) 9584**]
   536
   Cr
   0.5
   0.6
   0.7
   0.8
   0.9
   0.9
   0.9
   0.9
   1.1
   Glucose
   152
   165
   142
   129
   108
   99
   98
   98
   96
   Other labs: PT / PTT / INR:18.0/42.3/1.6, ALT / AST:16/27, Alk Phos / T
   Bili:204/0.1, Differential-Neuts:93.2 %, Lymph:4.5 %, Mono:1.4 %,
   Eos:0.8 %, Lactic Acid:1.1 mmol/L, LDH:548 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   50 yo female with metastatic breast cancer now with progression of
   hypoxemic respiratory failure now with persistent hypoxia and inability
   to improve clinical course now with move to CMO patient has had
   persistent hypoxemia and poor mental status which is secondary to both
   hypoxia and medications required to support patient comfort.  Patient's
   family has ongiong difficulty with acceptance of patient passing being
   prolonged and expressing exhaustion and frustration that process has
   been prolonged.
   1)Hypoxia-
   -O2 support in place
   -As needed will be used
   2) COMFORT CARE (CMO, COMFORT MEASURES)
   -MSO4 gtt in place
   -Social Work support in place as well as palliative care
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2143-11-19**] 12:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  Discussed with family
will find out about
   access to bed for them to get some sleep during the day given ongoing
   vigil.
   Code status: Comfort measures only
   Disposition :ICU
   Total time spent: 25 minutes